US07776875B2
Preparation of Intermediate E/Z—N-tert-butyl-C-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-methanesulfonamide
To the mixture of 6-chlorooxindole (3.05 g, 10 mmol) and N-tert-butyl-C-(4-chloro-2-formyl-phenoxy)-methanesulfonamide (1.65 g, 10 mmol)) in methanol (20 mL) was added pyrrolidine (1.41 g, 20 mmol) dropwise. The mixture was then heated at 70° C. for 1 h. After cooled to 4° C., the mixture was filtered and the precipitate was collected, dried to give the title compound (4 g).

reactant | 6-chlorooxindole | 10 mmol, 3.05 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | N-tert-butyl-C-(4-chloro-2-formyl-phenoxy)-methanesulfonamide | 10 mmol, 1.65 g | C(C)(C)(C)NS(=O)(=O)COC1=C(C=C(C=C1)Cl)C=O | C12H16ClNO4S
reactant | pyrrolidine | 20 mmol, 1.41 g | N1CCCC1 | C4H9N
solvent | methanol | 20 mL | CO | CH4O
product | Z—N-tert-butyl-C-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-methanesulfonamide | 4 g | C(C)(C)(C)NS(=O)(=O)COC1=C(C=C(C=C1)Cl)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O | C20H20Cl2N2O4S
